data/oMe_Silver.jsonl
{"reaction_id": "NR-143_1-c1ccc(F)cc1_2-C1CCCCC1_3-COCC","name": "Meyer-Schuster Rearrangement","level": "medium","reactants_smiles": ["C(C#Cc1ccc(F)cc1)(O)(C1CCCCC1)(COCC)"],"products_smiles": ["C(=O)(c1ccc(F)cc1)C=C(C1CCCCC1)(COCC)"],"conditions": "Acid","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C([OH2+])(C#Cc1ccc(F)cc1)(C1CCCCC1)(COCC)","rationale": "Protonation of the hydroxyl group increases its leaving group ability by converting OH into water, favored under acidic conditions due to enhanced electrophilicity at the adjacent carbon."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[C+](C#Cc1ccc(F)cc1)(C1CCCCC1)(COCC)","rationale": "Loss of water generates a carbocation stabilized by adjacent propargyl resonance, making elimination favorable despite potential steric effects from C1CCCCC1 and COCC."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(O)(c1ccc(F)cc1)=C=C(C1CCCCC1)(COCC)","rationale": "Nucleophilic attack of water on the electrophilic carbocation occurs, driven by carbocation stability and the ability to form an enol intermediate conjugated with the alkyne."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(c1ccc(F)cc1)C=C(C1CCCCC1)(COCC)","rationale": "Proton transfer tautomerizes the enol to the more thermodynamically stable α,β-unsaturated carbonyl, favored by conjugation between the C=O and C=C."}],"description": "Under acidic conditions, the propargyl alcohol undergoes protonation to activate the hydroxyl group, followed by water loss to form a stabilized carbocation. Nucleophilic addition and proton transfers rearrange the triple bond into an α,β-unsaturated carbonyl via the Meyer–Schuster pathway."}
{"reaction_id": "NR-219_1-c1ccc(OC)cc1_2-COCC_6-c1ccc(C)cc1","level": "medium","name": "Pfitzner-Moffatt oxidation","reactants_smiles": ["O=S(C)C","O=C(O)C","OC(c1ccc(OC)cc1)(COCC)","c1ccc(C)cc1N=C=Nc1ccc(C)cc1"],"products_smiles": ["S(C)C","O=C(O)C","O=C(c1ccc(OC)cc1)(COCC)","c1ccc(C)cc1NC(=O)Nc1ccc(C)cc1"],"conditions": null,"mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "N(c1ccc(C)cc1)=C(N(c1ccc(C)cc1))O[S+](C)C","step_weight": 0,"rationale": "The carbodiimide oxygen attacks DMSO sulfur because sulfur is electrophilic and polarizable; this forms an activated sulfonium intermediate stabilized by resonance with the carbodiimide."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "N(c1ccc(C)cc1)=C(N(c1ccc(C)cc1))OS(C)(C)[O]Cc3ccccc3","step_weight": 0,"rationale": "The activated sulfonium intermediate reacts with the alcohol oxygen, whose lone pairs attack the electrophilic sulfur, favored by the good leaving ability of the carbodiimide-derived group."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[NH](c1ccc(C)cc1)C(=[NH+](c1ccc(C)cc1))OS(C)(C)OC(c1ccc(OC)cc1)(COCC)","step_weight": 0,"rationale": "Proton transfer occurs to neutralize charges and generate a better leaving group; acid–base equilibrium is facilitated by the polar environment and the basic nitrogen atoms."},{"step": 4,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(c1ccc(OC)cc1)(COCC)[O][S](=C)C","step_weight": 0,"rationale": "The alkoxide oxygen attacks the activated sulfur, forming a sulfonium alkoxysulfonium species; this step is driven by the high electrophilicity of the sulfur center."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "O=C(c1ccc(OC)cc1)(COCC)","step_weight": 0,"rationale": "Elimination occurs as the leaving group departs, driven by the formation of a stable carbonyl and the favorable expulsion of a neutral dimethyl sulfide."}],"description": "In the Pfitzner–Moffatt oxidation, DMSO is activated by a carbodiimide to form an electrophilic sulfonium species, which reacts with the alcohol. Subsequent proton transfers and elimination steps drive the conversion of the alcohol to a carbonyl compound under mild, non-aqueous conditions."}
